* D:\Git\Kicad_Projects\ClassD_3.0\sims\push-pull.asc
* Generated by LTspice 24.1.8 for Windows.
M1 Vd1 G2 0 0 BSB012N03LX3
L1 Vin Vd2 30µ
L3 0 N002 60µ
V1 Vin 0 13
V2 N006 0 PULSE(0 5 0 1n 1n 14u 30u)
L2 Vd1 Vin 30µ
M2 Vd2 G1 0 0 BSB012N03LX3
V3 N005 0 PULSE(0 5 15u 1n 1n 14u 30u)
R3 G1 N005 1
R4 G2 N006 1
L4 N003 0 60µ
D1 N002 N001 D
D2 N003 N001 D
D3 N004 N002 D
D4 N004 N003 D
C1 NC_01 NC_02 20µ
R1 N001 0 10
R2 0 N004 10
C2 NC_03 NC_04 100µ
.model D D
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.mos
K1 L1 L2 L3 L4 1
.tran 0 2m 10u
;K1 L1 L4 1
.meas Imax MAX I(r1)
.meas imin MIN I(r1)
.backanno
.end
